US07375134B2
To a room temperature solution of methyl N-(2,2,2-trifluoro-1-phenylethyl)-L-leucinate (150 mg, 0.50 mmol) in 2:1 THF/MeOH was added 1M LiOH. The mixture was stirred overnight and concentrated. The residue was partitioned between ethyl acetate and pH 3.5 phosphate buffer. The organic phase was washed with brine, dried over MgSO4 and concentrated to give N-(2,2,2-trifluoro-1-phenylethyl)-L-leucine.

reactant | methyl N-(2,2,2-trifluoro-1-phenylethyl)-L-leucinate | 0.50 mmol, 150 mg | FC(C(C1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)OC)(F)F | C15H20F3NO2
reactant | LiOH | 1M | [Li+].[OH-]
solvent | THF MeOH | C1CCOC1.CO
product | N-(2,2,2-trifluoro-1-phenylethyl)-L-leucine | FC(C(C1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O)(F)F | C14H18F3NO2
